US08404709B2
3-[4-Nitro-2-(trifluoromethyl)benzylidene]pentane-2,4-dione
1 g (4.56 mmol) of 2-trifluoromethyl-4-nitrobenzaldehyde, 0.51 ml (5.02 mmol) of 2,4-pentanedione, 0.4 ml (6.85 mmol) of acetic acid and 90 μl (0.91 mmol) of piperidine in 20 ml of anhydrous dichloromethane are stirred under reflux with a water trap for 24 h. After cooling, the reaction solution is washed successively with saturated sodium bicarbonate solution and saturated sodium chloride solution. The organic phase is dried over magnesium sulfate and concentrated. The residue (1.28 g) is reacted in the next stage without further purification.

reactant | 2-trifluoromethyl-4-nitrobenzaldehyde | 4.56 mmol, 1 g | FC(C1=C(C=O)C=CC(=C1)[N+](=O)[O-])(F)F | C8H4F3NO3
reactant | 2,4-pentanedione | 5.02 mmol, 0.51 ml | CC(CC(C)=O)=O | C5H8O2
reactant | acetic acid | 6.85 mmol, 0.4 ml | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.91 mmol, 90 μl | N1CCCCC1 | C5H11N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-[4-Nitro-2-(trifluoromethyl)benzylidene]pentane-2,4-dione | [N+](=O)([O-])C1=CC(=C(C=C(C(C)=O)C(C)=O)C=C1)C(F)(F)F | C13H10F3NO4
